US04544400
Following the procedure of Example 4, N-methylcarbonyl 2-nitro-5-fluoroaniline (1.0 g, 5.1 mmol), phenol (0.47 g, 5.1 mmol) and potassium carbonate (1.4 g, 10.2 mmol) are reacted together to give N-methylcarbonyl 2-nitro-5-phenoxyaniline, 1.2 g of which is then reacted with 20% hydrochloric acid (50 ml) to give 2-nitro-5-phenoxyaniline. The 2-nitro-5-phenoxyaniline (0.9 g, 3.9 mmol) is reacted with potassium hydroxide (0.2 g, 3.9 mmol) and sodium hypochlorite (11 ml of 5.2% solution, 0.6 g, 7.8 mmol) to yield 5-phenoxybenzo-2,1,3-oxadiazole N-oxide, m.p. 76°-77°.

reactant | N-methylcarbonyl 2-nitro-5-fluoroaniline | 5.1 mmol, 1.0 g | CC(=O)NC1=C(C=CC(=C1)F)[N+](=O)[O-] | C8H7FN2O3
reactant | phenol | 5.1 mmol, 0.47 g | C1(=CC=CC=C1)O | C6H6O
reactant | potassium carbonate | 10.2 mmol, 1.4 g | C([O-])([O-])=O.[K+].[K+]
product | N-methylcarbonyl 2-nitro-5-phenoxyaniline | CC(=O)NC1=C(C=CC(=C1)OC1=CC=CC=C1)[N+](=O)[O-] | C14H12N2O4
